US03979444
A mixture of 44.7 g. (0.174 mole) of methyl 5-cyano-5-phenyl-2-oxocyclohexanecarboxylate in 1200 ml. of acetic acid and 600 ml. of 10% sulfuric acid is stirred mechanically on a steam bath for about 7 hours. The mixture is then allowed to cool and diluted with water. This mixture is extracted thoroughly with benzene. The organic layer is washed successively with water, sodium bicarbonate solution and brine and evaporated to dryness. The solid residue is recrystallized from a mixture of ethyl acetate and cyclohexane to give 25.75 g. (74.2% yield) of 4-cyano-4-phenylcyclohexanone, having a melting point of 112° to 115°C.

reactant | methyl 5-cyano-5-phenyl-2-oxocyclohexanecarboxylate | 0.174 mole | C(#N)C1(CCC(C(C1)C(=O)OC)=O)C1=CC=CC=C1 | C15H15NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-cyano-4-phenylcyclohexanone | 74.2% yield | C(#N)C1(CCC(CC1)=O)C1=CC=CC=C1 | C13H13NO
